US07968552B2
A mixture of 2-(4-aminobenzyl)-1,2,4-oxadiazolidine-3,5-dione (365 mg), 2-[(3′-formyl-2,6-dimethylbiphenyl-4-yl)oxy]ethyl acetate (660 mg), acetic acid (0.3 ml), THF (20 ml) and Molecular Sieves 4A (1 g) was stirred at room temperature for 22 hours. Sodium triacetoxyborohydride (560 mg) was added to the reaction mixture, followed by stirring at room temperature for 22 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, toluene was added to the residue, the solvent was again evaporated under a reduced pressure, and then the residue was purified by silica gel column chromatography (hexane-ethyl acetate). Methanol (10 ml) and sodium methoxide (52 mg) were added to the resulting pale yellow foamy substance (406 mg), followed by stirring for 2 hours while heating at 60° C. The solvent was evaporated under a reduced pressure, and chloroform was added to the residue, followed by washing with water and a saturated sodium chloride aqueous solution and drying over anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and THF (5 ml), methanol (5 ml) and a 1 M sodium hydroxide aqueous solution (0.81 ml) were added to the resulting pale yellow foamy substance (373 mg), followed by stirring at room temperature for 5 minutes. The solvent was evaporated under a reduced pressure, the residue was purified by an ODS column chromatography (water-acetonitrile), the resulting pale yellow foamy substance was made into a solid by adding diethyl ether. The solid was collected by filtration and then dried by heating under a reduced pressure to obtain sodium 2-[4-({[4′-(2-hydroxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)benzyl]-3,5-dioxo-1,2,4-oxadiazolidin-4-ide (226 mg) as a pale yellow solid.

reactant | 2-(4-aminobenzyl)-1,2,4-oxadiazolidine-3,5-dione | 365 mg | NC1=CC=C(CN2OC(NC2=O)=O)C=C1 | C9H9N3O3
reactant | 2-[(3′-formyl-2,6-dimethylbiphenyl-4-yl)oxy]ethyl acetate | 660 mg | C(C)(=O)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C19H20O4
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 560 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | sodium 2-[4-({[4′-(2-hydroxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)benzyl]-3,5-dioxo-1,2,4-oxadiazolidin-4-ide | 226 mg | OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(CN2OC([N-]C2=O)=O)C=C1)C.[Na+] | InChI=1S/C26H27N3O5.Na/c1-17-12-23(33-11-10-30)13-18(2)24(17)21-5-3-4-20(14-21)15-27-22-8-6-19(7-9-22)16-29-25(31)28-26(32)34-29;/h3-9,12-14,27,30H,10-11,15-16H2,1-2H3,(H,28,31,32);/q;+1/p-1
